US05451596
A mixture of cis-2-aminocyclohexanol hydrochloride (4.88 g; 32 mmol) (William S. Johnson and Elliot N. Schubert, J.A.C.S., Vol. 72, pp. 2187-2190 (1950), triphenylmethylchloride (10.7 g; 38.4 mmol) and triethylamine (16 ml; 115 mmol) in 250 ml methylene chloride are refluxed for 3 hrs. then stirred at room temperature overnight. The mixture is poured into H2O and extracted with CH2Cl2 (200 ml), dried (Na2SO4) concentrated in vacuo and flash chromatographed using 9:1 7:1; hexane:EtOAc to obtain cis-2-triphenylmethylaminocyclohexanol which is used directly in the next step.

reactant | cis-2-aminocyclohexanol hydrochloride | 32 mmol, 4.88 g | Cl.N[C@@H]1[C@@H](CCCC1)O
reactant | triphenylmethylchloride | 38.4 mmol, 10.7 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 115 mmol, 16 ml | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | cis-2-triphenylmethylaminocyclohexanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1[C@@H](CCCC1)O | C25H27NO
